US08735385B2
2-[2-Fluoro-4-(4-hydroxy-cyclohexyl)-phenyl]-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester
2-{4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenyl}-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (720 mg, 1.29 mmol) was dissolved in THF (10 mL). To this solution at rt was added TBAF (1M in THF) (2 mL, 2 mmol, 1.5 equiv.). The reaction mixture was then heated to 60° C. (bath set) for 5 h. The reaction was complete (TLC, 5% MeOH in DCM). The reaction was diluted with EtOAc (5 mL), quenched with NaHCO3 (saturated aqueous solution, 5 mL). The two layers were separated and the aq. layer was extracted with EtOAc (15 mL×2). The EtOAc solution was combined, washed with brine (10 mL), and dried over K2CO3, filtered, and concentrated. The crude product was purified on a silica gel column eluted with 5% MeOH in DCM to afford 0.53 g (93% yield) of the title compound as a white solid.

reactant | 2-{4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenyl}-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 1.29 mmol, 720 mg | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=C(C=C(C=C2)C2CCC(CC2)O[Si](C)(C)C(C)(C)C)F)CC1 | C31H49FN2O4Si
reactant | TBAF | 2 mmol, 1M, 2 mL, 1.5 equiv. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | MeOH | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 2-[2-Fluoro-4-(4-hydroxy-cyclohexyl)-phenyl]-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 0.53 g, 93% yield | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=C(C=C(C=C2)C2CCC(CC2)O)F)CC1 | C25H35FN2O4
